US05409943
(b) N-[3-(2-Chloro-6-fluorobenzyloxy)pyrid-2-yl]-2-chlorophenylacetamidine hydrochloride
A mixture of ethyl 2-chlorophenylacetimidate hydrochloride (5.07 g, 0.0216 mol), 2-amino-3-(2-chloro-6-fluorobenzyloxy)pyridine (4.95 g, 0.0196 mol)and ethanol (150 ml) was heated under reflux for 2 hours. The solvent was evaporated off and the resultant oil was purified by chromatography (silica gel, 1% methanol/dichloromethane) and trituration with ether. Yield 0.7 g (8%), m.p. 156°-158 ° C.

reactant | ethyl 2-chlorophenylacetimidate hydrochloride | 0.0216 mol, 5.07 g | Cl.ClC1=C(C=CC=C1)CC(OCC)=N
reactant | 2-amino-3-(2-chloro-6-fluorobenzyloxy)pyridine | 0.0196 mol, 4.95 g | NC1=NC=CC=C1OCC1=C(C=CC=C1F)Cl | C12H10ClFN2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N-[3-(2-Chloro-6-fluorobenzyloxy)pyrid-2-yl]-2-chlorophenylacetamidine hydrochloride | Cl.ClC1=C(COC=2C(=NC=CC2)NC(CC2=C(C=CC=C2)Cl)=N)C(=CC=C1)F | InChI=1S/C20H16Cl2FN3O.ClH/c21-15-6-2-1-5-13(15)11-19(24)26-20-18(9-4-10-25-20)27-12-14-16(22)7-3-8-17(14)23;/h1-10H,11-12H2,(H2,24,25,26);1H
